US07018988B2
(2S,4EZ)-4-[(benzyloxy)imino]-N-(tert-butyl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid, phenoxyacetyl chloride, and tert-butylamine the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=424.2.

reactant | (2S,4EZ)-4-[(benzyloxy)imino]-1-(tert-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C17H22N2O5
reactant | phenoxyacetyl chloride | O(C1=CC=CC=C1)CC(=O)Cl | C8H7ClO2
reactant | tert-butylamine | C(C)(C)(C)N | C4H11N
product | (2S,4EZ)-4-[(benzyloxy)imino]-N-(tert-butyl)-1-(phenoxyacetyl)-2-pyrrolidinecarboxamide | C(C1=CC=CC=C1)ON=C1C[C@H](N(C1)C(COC1=CC=CC=C1)=O)C(=O)NC(C)(C)C | C24H29N3O4
